US06498163B1
To a room temperature solution of 4-ethylamino-2-phenylamino-pyrimidine-5-carboxaldehyde (320 mg, 1.32 mmol) in 12 mL of tetrahydrofuran was added (carbethoxymethylene)triphenylphosphorane (720 mg, 2.07 mmol). The reaction mixture was heated at reflux for 7 hours then stirred at room temperature overnight. An additional amount of (carbethoxymethylene)triphenylphosphorane (300 mg, 0.86 mmol) was added, and the reaction mixture was heated at reflux for an additional 8 hours then stirred at room temperature for 3 days. The reaction mixture was concentrated in vacuo, and the residue was purified by flash chromatography, eluting with 1:2 ethyl acetate:hexane, to provide 357 mg (86%) of ethyl 3-(4-ethylamino-2-phenylamino-pyrimidin-5-yl)acrylate, mp 125-126° C.

reactant | 4-ethylamino-2-phenylamino-pyrimidine-5-carboxaldehyde | 1.32 mmol, 320 mg | C(C)NC1=NC(=NC=C1C=O)NC1=CC=CC=C1 | C13H14N4O
reactant | (carbethoxymethylene)triphenylphosphorane | 2.07 mmol, 720 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | (carbethoxymethylene)triphenylphosphorane | 0.86 mmol, 300 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | ethyl 3-(4-ethylamino-2-phenylamino-pyrimidin-5-yl)acrylate | 357 mg, 86% | C(C)NC1=NC(=NC=C1C=CC(=O)OCC)NC1=CC=CC=C1 | C17H20N4O2
